US09290485B2
a) 5-Benzyl-1H-[1,2,4]triazole-3-carboxylic acid butyl ester
Ethyl-2-ethoxy-2-iminoacetate (1.318 g, 9.08 mmol) and phenyl acetic acid hydrazide (1.364 g, 9.08 mmol) were mixed together in ethanol (20 ml) and stirred at 80° C. for 1 h. Ethanol was evaporated. The residue was dissolved in n-butanol (20 ml). The reaction mixture was stirred at 150° C. for 20 h, then solvents were evaporated.

reactant | Ethyl-2-ethoxy-2-iminoacetate | 9.08 mmol, 1.318 g | C(C)OC(C(=N)OCC)=O | C6H11NO3
reactant | phenyl acetic acid hydrazide | 9.08 mmol, 1.364 g | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 5-Benzyl-1H-[1,2,4]triazole-3-carboxylic acid butyl ester | C(CCC)OC(=O)C1=NNC(=N1)CC1=CC=CC=C1 | C14H17N3O2
